US06967254B2
Step A: 4-(3,4-Dichloro-phenyl)-1-isopropyl-2-methyl-5-pyridin-4-yl-pyrazolidin-3-one
In a 100 mL round bottom flask, was added 0.1 g 4-(3,4-Dichloro-phenyl)-1-isopropyl-5-pyridin-4-yl-pyrazolidin-3-one and 10 mL THF, stirred at 0° C. under nitrogen. 0.43 mL 1 M LHMDS in THF was added drop wise. After stirred at 0° C. for 30 min 0.026 mL iodomethane was added drop wise. The resulted mixture was stirred from 0° C. to rt for 2 hours, quenched with 20 mL sat. NH4Cl, extracted with dichloromethane 3×25 mL. The organic phase was dried over anhydrous Na2SO4. After purification by flash chromatography, obtained the title compound 80 mg as light solid. MS (ES+): 364 (M+H)+.

reactant | 4-(3,4-Dichloro-phenyl)-1-isopropyl-5-pyridin-4-yl-pyrazolidin-3-one | 0.1 g | ClC=1C=C(C=CC1Cl)C1C(NN(C1C1=CC=NC=C1)C(C)C)=O | C17H17Cl2N3O
reactant | LHMDS | 1 M, 0.43 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | iodomethane | 0.026 mL | IC | CH3I
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-(3,4-Dichloro-phenyl)-1-isopropyl-2-methyl-5-pyridin-4-yl-pyrazolidin-3-one | 80 mg | ClC=1C=C(C=CC1Cl)C1C(N(N(C1C1=CC=NC=C1)C(C)C)C)=O | C18H19Cl2N3O
